US06828448B2
hydrolysis, recovery of 2-butyl-3-(4-[3-(dibutylamino)propoxy]benzoyl)-5-nitrobenzofuran hydrochloride and treatment with sodium hydroxide so as to form the desired 2-butyl-3-(4-[3-(dibutylamino)propoxy]benzoyl)-5-nitrobenzofuran.

reactant | 2-butyl-3-(4-[3-(dibutylamino)propoxy]benzoyl)-5-nitrobenzofuran hydrochloride | Cl.C(CCC)C=1OC2=C(C1C(C1=CC=C(C=C1)OCCCN(CCCC)CCCC)=O)C=C(C=C2)[N+](=O)[O-]
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-butyl-3-(4-[3-(dibutylamino)propoxy]benzoyl)-5-nitrobenzofuran | C(CCC)C=1OC2=C(C1C(C1=CC=C(C=C1)OCCCN(CCCC)CCCC)=O)C=C(C=C2)[N+](=O)[O-] | C30H40N2O5
